US05401739
To a solution of 10 g of 1,4-dichloro(trans) 2-butene in 100 ml of N,N-dimethylformamide was added 16.5 g of phthalimide potassium with ice cooling. The mixture was stirred at room temperature for 8 hours, the mixture was subjected to extraction with water-ethyl acetate, and the organic layer was distilled to remove the solvent. The residue was then purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1), giving 9.6 g of N-[4-chloro(trans) 2-butenyl]phthalimide (yield 51% ).

reactant | 1,4-dichloro(trans) 2-butene | 10 g | ClC\C=C\CCl | C4H6Cl2
reactant | phthalimide potassium | 16.5 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[4-chloro(trans) 2-butenyl]phthalimide | 9.6 g, yield 51% | ClC/C=C/CN1C(C=2C(C1=O)=CC=CC2)=O | C12H10ClNO2
